US04035397
12.64 parts of 1-methylamino-4bromo-anthraquinone, 9.9 parts of para-trifluoromethoxyaniline, 6 parts of potassium acetate and 2 parts of copper acetate are introduced into 43 parts of 4-methyl-2-pertanol and the mixture is heated at 132° C. for 8 hours. The mixture is then cooled to 60° C., filtered, washed with water, then the precipitate is taken up in dilute caustic soda, filtered, washed and dried. 9.6 parts of 1-methylamino-4-(p-trifluoromethoxy-anilino)-anthraquinone are obtained.

reactant | 1-methylamino-4bromo-anthraquinone | CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br | C15H10BrNO2
reactant | para-trifluoromethoxyaniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | potassium acetate | C(C)(=O)[O-].[K+]
catalyst | copper acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-methylamino-4-(p-trifluoromethoxy-anilino)-anthraquinone | CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC1=CC=C(C=C1)OC(F)(F)F | C22H15F3N2O3
